US07504408B2
7-[3-(1,1-dioxidothiomorpholin-4-yl)propoxy]-N-[5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine
This was prepared using the method described in example 4 using 4-chloro-7-[3-(1,1-dioxidothiomorpholin-4-yl)propoxy]-6-methoxyquinazoline (150 mg, 0.39 mmol), 5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxolamine (91 mg, 0.41 mmol) and a solution of sodium bis(trimethylsilyl)amide (1.0M in THF, 0.82 ml) in DMF (2.5 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (194 mg, 87%) as a colourless solid; NMR Spectrum:DMSOd6) 1.98 (quintet, 2H), 2.66 (t, 2H), 2.92 (m, 4H), 3.21 (m, 4H), 3.36 (s, 3H), 3.94 (s, 3H), 4.20 (t, 2H), 4.37 (s, 2H), 6.16 (s, 2H), 6.91 (d, 1H), 7.23 (s, 1H), 7.81 (s, 1H), 8.36 (s, 1H), 9.52 (s, 1H); Mass Spectrum: M+H+ 573.

reactant | 4-chloro-7-[3-(1,1-dioxidothiomorpholin-4-yl)propoxy]-6-methoxyquinazoline | 0.39 mmol, 150 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCS(CC1)(=O)=O | C16H20ClN3O4S
reactant | 5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxolamine | 0.41 mmol, 91 mg | FC1=CC2=C(OC(O2)N)C(=C1)C#CCOC | C11H10FNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 0.82 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 7-[3-(1,1-dioxidothiomorpholin-4-yl)propoxy]-N-[5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine | 194 mg, 87% | O=S1(CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=2OCOC21)C#CCOC)F)OC)=O | C27H29FN4O7S
